US09371262B2
4-(2,4-dimethylcyclohex-3-en-1-ylidene)pentan-2-yl formate
An argon flushed three-necked flask which was cooled by an ice-water bath was charged with β,γ-unsaturated carbonyl compound A (2,4-dimethyl-1-(prop-1-en-2-yl)cyclohex-3-enecarbaldehyde, mixture of syn and anti in a ratio of 4:1; 1.78 g, 10 mmol), aldehyde B (acetaldehyde, 0.53 g, 12 mmol) and 1,2-dichloroethane (20 mL). Boron trifluoride etherate (0.14 g, 1.0 mmol) were added dropwise under argon. After completion of the addition the ice-water bath was removed and the mixture was stirred for 2 hours at room temperature. The completion of reaction was checked by GC analysis of reaction aliquots quenched with a solution of saturated NaHCO3 in water. After complete conversion (>95%), the reaction mixture was quenched with sat. aqueous NaHCO3 solution (10 mL). The organic phase was separated and the aqueous layer was extracted with MTBE three times. The combined organic layers were washed with brine (20 mL), dried (MgSO4) and evaporated in vacuo. The residue was purified by column chromatography on silica gel (MTBE/hexane=1:20) to yield the title product (1.55 g, 70%) as colorless liquid. Mixture of four isomers in a ratio of 1 :2:3:16.

reactant | 2,4-dimethyl-1-(prop-1-en-2-yl)cyclohex-3-enecarbaldehyde | CC1C(CCC(=C1)C)(C=O)C(=C)C | C12H18O
reactant | aldehyde B | 12 mmol, 0.53 g | CC(C)C1=CC=C(C=C1)CC(C)C=O | C13H18O
reactant | Boron trifluoride etherate | 1.0 mmol, 0.14 g | B(F)(F)F.CCOCC
solvent | 1,2-dichloroethane | 20 mL | ClCCCl | C2H4Cl2
product | 4-(2,4-dimethylcyclohex-3-en-1-ylidene)pentan-2-yl formate | 1.55 g, 70% | C(=O)OC(C)CC(C)=C1C(C=C(CC1)C)C | C14H22O2
